US04542142
Using the procedure of Step F of Example 9, (1R,cis) 2,2-dimethyl-3-[(Z) 3-oxo-3-(2,2-difluoroethoxy)1-propenyl]-cyclopropane-carboxylic acid and α-ethynyl-3-phenoxy-benzyl alcohol were reacted to obtain (R)α-ethynyl-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3-[(Z) 3-oxo-3-(2,2-difluoroethoxy)-1-propenyl]-cyclopropane-carboxylate with a specific rotation of [α]D20 =+47°±1.5° (c=1% in CHCl3).

reactant | (1R,cis) 2,2-dimethyl-3-[(Z) 3-oxo-3-(2,2-difluoroethoxy)1-propenyl]-cyclopropane-carboxylic acid | CC1([C@@H]([C@@H]1\C=C/C(OCC(F)F)=O)C(=O)O)C | C11H14F2O4
reactant | α-ethynyl-3-phenoxy-benzyl alcohol | C(#C)C(C1=CC(=CC=C1)OC1=CC=CC=C1)O | C15H12O2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | (R)α-ethynyl-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3-[(Z) 3-oxo-3-(2,2-difluoroethoxy)-1-propenyl]-cyclopropane-carboxylate | CC1([C@@H]([C@@H]1\C=C/C(OCC(F)F)=O)C(=O)O[C@@H](C1=CC(=CC=C1)OC1=CC=CC=C1)C#C)C | C26H24F2O5
